US06503900B2
(3R)-3-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine (8.6 mmol) was allowed to react with 8.4 mmol acetic anhydride and 12.9 mmol Et3N in 20 mL DMF to give 2.9 mmol of 1-[(3R)-3-methyl-1,2,3,5-tetrahydro-4H-1,4-benzodiazepin4-yl]-1-ethanone.

reactant | (3R)-3-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 8.6 mmol | C[C@@H]1CNC2=C(CN1)C=CC=C2 | C10H14N2
reactant | acetic anhydride | 8.4 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 12.9 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[(3R)-3-methyl-1,2,3,5-tetrahydro-4H-1,4-benzodiazepin4-yl]-1-ethanone | 2.9 mmol | C[C@@H]1CNC2=C(CN1C(C)=O)C=CC=C2 | C12H16N2O
